US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-(4-acetamidophenyl-oxy)-pyrazine, CJS 506
Using Method EE with 2-chloro-6-(4-acetamidophenyl-oxy)-pyrazine (150 mg, 0.57 mmol) and 3,4,5-trimethoxyaniline (125 mg, 0.68 mmol), and crystallisation (AcOEt), the title compound was obtained (87 mg). Yield: 37%. 1H NMR (250 MHz, DMSO-d6) δ 2.07 (s, 3H, CH3—NH), 3.43 (s, 6H, [CH3O]3+5), 3.55 (s, 3H, [CH3O]4), 6.77 (s, 2H, Harom2′+6′), 7.13 (d, 2H, Harom 3+5, J=8.9 Hz), 7.60 (d, 2H, Harom 2+6, J=8.9 Hz), 7.73 (s, 1H, HPz 5), 7.93 (s, 1H, HPz 3), 9.51 (s, 1H, NH), 9.98 (s, 1H, NH). m/z: 411.2 [(M+H)+, calcd for C21H22N4O5 410.2].

reactant | 2-chloro-6-(4-acetamidophenyl-oxy)-pyrazine | 0.57 mmol, 150 mg | ClC1=NC(=CN=C1)OC1=CC=C(C=C1)NC(C)=O | C12H10ClN3O2
reactant | 3,4,5-trimethoxyaniline | 0.68 mmol, 125 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-(3,4,5-Trimethoxyphenylamino)-6-(4-acetamidophenyl-oxy)-pyrazine | Yield: 37% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC1=CC=C(C=C1)NC(C)=O | C21H22N4O5
